US04570006
Synthesis of 4-amidino-2-benzoylphenyl 6-benzyloxycarbonylaminocaproate
Into 50 ml of anhydrous pyridine, was dissolved 4.0 g of 6-benzyloxycarbonylaminocaproic acid. To the solution, while being cooled in ice, was added 3.7 g of DCC. After having been stirred for 30 minutes, the mixture was admixed with 5.0 g of 4-amidino-2-benzoylphenol methanesulfonate and stirred overnight at room temperature. The precipitate which was formed was separated by filtration and washed with pyridine. Ethyl ether was added to the filtrate to precipitate white crystals. The crystals were collected by filtration, washed with ethyl ether, dissolved in DMF, and admixed with ethyl ether to precipitate colorless crystals which were collected by filtration and dried to obtain 5.7 g of an anhydrous substance. This substance was recrystallized from ethanol to obtain 2.7 g of colorless needle crystals of 4-amidino 2-benzoylphenyl 6-benzyloxycarbonylaminocaproate methanesulfonate.

reactant | 6-benzyloxycarbonylaminocaproic acid | 4.0 g | C(C1=CC=CC=C1)OC(=O)NCCCCCC(=O)O | C14H19NO4
reactant | DCC | 3.7 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 4-amidino-2-benzoylphenol methanesulfonate | 5.0 g | CS(=O)(=O)OC1=C(C=C(C=C1)C(N)=N)C(C1=CC=CC=C1)=O | C15H14N2O4S
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 4-amidino-2-benzoylphenyl 6-benzyloxycarbonylaminocaproate | 2.7 g | C(C1=CC=CC=C1)OC(=O)NCCCCCC(=O)OC1=C(C=C(C=C1)C(N)=N)C(C1=CC=CC=C1)=O | C28H29N3O5
